US04775671
20.0 g (67 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile and 10.06 g (134 mmol) of thioacetamide are heated to 90° together with 100 ml of dry N,N-dimethylformamide, whereupon the mixture is saturated with dry hydrogen chloride at this temperature for 5 hours. The mixture is cooled to room temperature and poured into 2.5 l of water. The mixture is neutralized to pH 7 with sodium hydroxide solution and the precipitated product is filtered off under suction. The material on the suction filter is taken up in methylene chloride, insoluble material is filtered off and the filtrate is washed with water, dried over magnesium sulphate and concentrated in half. By suction filtration and recrystallization from ethyl acetate there is obtained (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbothioamide of melting point 247°-248°.

reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile | 67 mmol, 20.0 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C#N)CCC1)=O | C15H11ClN4O
reactant | thioacetamide | 134 mmol, 10.06 g | C(C)(=S)N | C2H5NS
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 2.5 l | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbothioamide | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=S)CCC1)=O | C15H13ClN4OS
